US07915250B2
To a solution of 1,1-dimethylethyl 3-hydroxy-3-piperazin-2-ylazetidine-1-carboxylate (227 mg, 0.88 mmol) and N,N-diisopropylethylamine (436 μL, 2.64 mmol) in THF (5 mL) was added 2-nitrobenzenesulfonyl chloride (195 mg, 0.88 mmol). The mixture was stirred at room temperature for 2 hours. The solution was concentrated and the residue was purified by column chromatography (95% dichloromethane:5% methanol) to provide 1,1-dimethylethyl 3-hydroxy-3-{4-[(2-nitrophenyl)sulfonyl]piperazin-2-yl}azetidine-1-carboxylate as a white foam (308 mg, 0.70 mmol, 79% yield). 1H NMR, (400 MHz, CDCl3): 7.98 (m, 1H), 7.72 (m, 2H), 7.64 (m, 1H), 3.96 (d, 1H), 3.94 (d, 1H), 3.85 (d, 1H), 3.79 (d, 1H), 3.79-3.73 (m, 2H), 3.11 (m, 1H), 3.05 (dd, 1H), 3.00 (br s, 1H), 2.94 (dt, 1H), 2.78 (dt, 1H), 2.68 (dd, 1H), 1.45 (s, 9H).

reactant | 1,1-dimethylethyl 3-hydroxy-3-piperazin-2-ylazetidine-1-carboxylate | 0.88 mmol, 227 mg | OC1(CN(C1)C(=O)OC(C)(C)C)C1NCCNC1 | C12H23N3O3
reactant | N,N-diisopropylethylamine | 2.64 mmol, 436 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-nitrobenzenesulfonyl chloride | 0.88 mmol, 195 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 3-hydroxy-3-{4-[(2-nitrophenyl)sulfonyl]piperazin-2-yl}azetidine-1-carboxylate | 0.70 mmol, 308 mg, 79% yield | OC1(CN(C1)C(=O)OC(C)(C)C)C1NCCN(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C18H26N4O7S
